US04584246
B. Crosslinked Divinylbenzene-Vinylbenzyl Chloride Resin (Resin B)
Four hundred cc. of distilled water was boiled in a 1 liter three-neck flask under nitrogen. It was then cooled to room temperature and 6 g. of sodium lauryl sulfate was stirred in, followed by a mixture of 65 g. vinylbenzyl chloride and 35 g. of a 77.9% commercial divinylbenzene, and then 1 g. K2S2O8. The reaction mixture was heated to 60° C. and held at this temperature for 3 hours. The resin thus prepared by emulsion polymerization was coagulated in 10% sodium chloride solution, filtered, and washed with distilled water and then with methanol. Following washing, the resin was dried in a forced-convection oven at room temperature. The dry resin was dispersed in DMF for use in membrane preparation.

reactant | water | O | H2O
reactant | sodium lauryl sulfate | S(=O)(=O)(OCCCCCCCCCCCC)[O-].[Na+]
reactant | vinylbenzyl chloride | C(=C)C(C1=CC=CC=C1)Cl | C9H9Cl
reactant | divinylbenzene | C(=C)C1=C(C=CC=C1)C=C | C10H10
solvent | sodium chloride | [Cl-].[Na+]
product | Divinylbenzene Vinylbenzyl Chloride | C(=C)C1=C(C=CC=C1)C=C.C(=C)C(C1=CC=CC=C1)Cl | InChI=1S/C10H10.C9H9Cl/c1-3-9-7-5-6-8-10(9)4-2;1-2-9(10)8-6-4-3-5-7-8/h3-8H,1-2H2;2-7,9H,1H2
